US04075001
A mixture of 16.0 g of 5-amino-4-cyano-3-(1-pyrrolidinyl)isothiazole, 25 drops of dibutyltin diacetate and 5.4 g of methyl isocyanate in 90 ml of tetrahydrofuran was heated under reflux for about 56 hours. Small increments of methyl isocyanate (3 ml at 27 hours and 2 ml at 40 hours) and dibutyltin diacetate (10 drops at 32 hours and 5 drops at 40 hours) were added during the reflux period. A solid that had formed was isolated by filtration. The filtrate was concentrated under reduced pressure to obtain a second crop. A total of 17.0 g of 1-methyl-3-(4-cyano-3-(1-pyrrolidinyl)-5-isothiazolyl)urea, m.p. 239°, was obtained. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-(1-pyrrolidinyl)isothiazole | 16.0 g | NC1=C(C(=NS1)N1CCCC1)C#N | C8H10N4S
reactant | methyl isocyanate | 5.4 g | CN=C=O | C2H3NO
reactant | methyl isocyanate | 3 ml | CN=C=O | C2H3NO
catalyst | dibutyltin diacetate | 25 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
catalyst | dibutyltin diacetate | 10 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 1-methyl-3-(4-cyano-3-(1-pyrrolidinyl)-5-isothiazolyl)urea | 17.0 g | CNC(=O)NC1=C(C(=NS1)N1CCCC1)C#N | C10H13N5OS
